US05565568
Preparation of 3-(1H-indol-3-yl)-N-(2-methoxybenzyl)-2-(N-triphenylmethylamino)propanamide
To a stirring solution of 3-(1H-indol-3-yl)-2-(N-triphenylmethylamino)propanoic acid (179.8 g, 0.403 mol), 2-methoxybenzylamine (56.0 ml, 0.429 mol), and hydroxybenzotriazole hydrate (57.97 g, 0.429 mol) in anhydrous tetrahydrofuran (1.7L) and anhydrous N,N-dimethylformamide (500 ml) under a nitrogen atmosphere at 0° C., were added triethylamine (60.0 ml, 0.430 mol) and 1-(3-dimethylaminopropyl)-3-ethoxycarbodiimide hydrochloride (82.25 g, 0.429 mol). The mixture was allowed to warm to room temperature under a nitrogen atmosphere for at least 20 hours. The mixture was concentrated on a rotary evaporator and then redissolved in methylene chloride and an aqueous work-up of 5% citric acid solution (2×), saturated sodium bicarbonate solution (2×), and brine (2×) was performed. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated to dryness on a rotary evaporator. The title product was then filtered as a pink solid in two lots. Isolated 215.8 g (0.381 mol) of analytically pure material (95% yield).

reactant | 3-(1H-indol-3-yl)-2-(N-triphenylmethylamino)propanoic acid | 0.403 mol, 179.8 g | N1C=C(C2=CC=CC=C12)CC(C(=O)O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H26N2O2
reactant | 2-methoxybenzylamine | 0.429 mol, 56.0 ml | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | hydroxybenzotriazole hydrate | 0.429 mol, 57.97 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 0.430 mol, 60.0 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethoxycarbodiimide hydrochloride | 0.429 mol, 82.25 g | Cl.CN(CCCN=C=NOCC)C
solvent | tetrahydrofuran | 1.7L | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 3-(1H-indol-3-yl)-N-(2-methoxybenzyl)-2-(N-triphenylmethylamino)propanamide | 95% yield | N1C=C(C2=CC=CC=C12)CC(C(=O)NCC1=C(C=CC=C1)OC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H35N3O2
